US05475106
The procedure used is similar to that described in Example 1, but starting with tert-butyl 2-[2-amino-N-(3-methoxyphenyl)acetamido]acetate (2.3 g) and 3-methylphenyl isocyanate (1.1 g). The product obtained is purified by chromatography on silica (0.04-0.063 mm) (150 g) contained in a column 3.5 cm in diameter [eluent: cyclohexane/ethyl acetate (70:30 by volume)], using an excess pressure of nitrogen of 40 kPa and collecting 20-cc fractions. Fractions 10 to 16 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallisation in diisopropyl ether, tert-butyl 2-{N-(3-methoxyphenyl)-2-[3-(3-methylphenyl)ureido]acetamido}acetate (2.2 g), m.p. approximately 60° C., is obtained.

reactant | tert-butyl 2-[2-amino-N-(3-methoxyphenyl)acetamido]acetate | 2.3 g | NCC(=O)N(C1=CC(=CC=C1)OC)CC(=O)OC(C)(C)C | C15H22N2O4
reactant | 3-methylphenyl isocyanate | 1.1 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl 2-{N-(3-methoxyphenyl)-2-[3-(3-methylphenyl)ureido]acetamido}acetate | 2.2 g | COC=1C=C(C=CC1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)CC(=O)OC(C)(C)C | C23H29N3O5
